US08895582B2
To a solution of (S)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(6-fluoroisoquinolin-3-ylcarbamoyloxy)pentanoic acid (83 mg, 0.160 mmol, 1.0 equiv) in DMF (1 mL) were added HBTU (72 mg, 0.191 mmol, 1.2 equiv.), tert-butyl-1-piperazine carboxylate (59 mg, 0.320 mmol, 2.0 equiv.) and DIEA (83 μL, 0.480 mmol, 3.0 equiv.). The reaction mixture was stirred 1 h at RT and purified on RP-HPLC using a mixture of acetonitrile and H2O to give (S)-tert-butyl 4-(4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(6-fluoroisoquinolin-3-ylcarbamoyloxy)pentanoyl)piperazine-1-carboxylate (61 mg, 55%). LRMS (M+H+) m/z 689.3.

reactant | (S)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(6-fluoroisoquinolin-3-ylcarbamoyloxy)pentanoic acid | 0.160 mmol, 83 mg, 1.0 equiv | ClC1=C(CNC(N(C)[C@@H](CCC(=O)O)COC(NC=2N=CC3=CC=C(C=C3C2)F)=O)=O)C=CC=C1F | C24H23ClF2N4O5
reactant | HBTU | 0.191 mmol, 72 mg, 1.2 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl-1-piperazine carboxylate | 0.320 mmol, 59 mg, 2.0 equiv. | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | DIEA | 0.480 mmol, 83 μL, 3.0 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (S)-tert-butyl 4-(4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(6-fluoroisoquinolin-3-ylcarbamoyloxy)pentanoyl)piperazine-1-carboxylate | 61 mg, 55% | ClC1=C(CNC(N(C)[C@@H](CCC(=O)N2CCN(CC2)C(=O)OC(C)(C)C)COC(NC=2N=CC3=CC=C(C=C3C2)F)=O)=O)C=CC=C1F | C33H39ClF2N6O6
